US09120805B2
A solution of 1.04 g (2.71 mmol) 1-[2-(4-tert-butyl-phenyl)-2-oxo-ethyl]-1H-pyrazole-3,5-dicarboxylic acid diethyl ester and 2.08 g (27.1 mmol) ammonium acetate in 20 ml acetic acid is stirred for 44 hours at 110° C. The reaction mixture is cooled to room temperature and excess water is added. The resulting precipitate is filtered off, and washed with water. The residue is chromatographed on a silica gel column with dichloromethane/methanol as eluent to give 6-(4-tert-butyl-phenyl)-4-oxo-4,5-dihydro-pyrazolo[1,5-a]pyrazine-2-carboxylic acid ethyl ester as colourless crystals; HPLC/MS 2.41 (A), [M+H] 340.

reactant | 1-[2-(4-tert-butyl-phenyl)-2-oxo-ethyl]-1H-pyrazole-3,5-dicarboxylic acid diethyl ester | 2.71 mmol, 1.04 g | C(C)OC(=O)C1=NN(C(=C1)C(=O)OCC)CC(=O)C1=CC=C(C=C1)C(C)(C)C | C21H26N2O5
reactant | ammonium acetate | 27.1 mmol, 2.08 g | C(C)(=O)[O-].[NH4+]
reactant | water | O | H2O
solvent | acetic acid | 20 ml | C(C)(=O)O | C2H4O2
product | 6-(4-tert-butyl-phenyl)-4-oxo-4,5-dihydro-pyrazolo[1,5-a]pyrazine-2-carboxylic acid ethyl ester | C(C)OC(=O)C1=NN2C(C(NC(=C2)C2=CC=C(C=C2)C(C)(C)C)=O)=C1 | C19H21N3O3
